US06566367B2
3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-5′-ylamine (1.01 g, 5.7 mmol) and pyridine (12 ml) are stirred in dry CH2Cl2. Phenylchloroformate (1.3 g, 8.5 mmol) is added to this mixture and stirred for 24 h at room temperature. Water and a solution of 1:1 EtOAc/hexanes is added and the organic layer is separated. The organic layer is washed with 1N HCl three times and with brine once. The organic layer is dried over Na2SO4, filter, and evaporated in vacuo. Purify by flash column chromatography (0-10% EtOAc/CH2Cl2) to obtain (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-carbamic acid phenyl ester. Mass spec.: M−1=280 (AP−).

reactant | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-5′-ylamine | 5.7 mmol, 1.01 g | N1(CCCCC1)C1=NC=C(C=C1)N | C10H15N3
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
reactant | Phenylchloroformate | 8.5 mmol, 1.3 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | Water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1C=CC(=NC1)N1CCCCC1)=O | C17H19N3O2
